US07524843B2
Preparation of 5-bromo-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one
To a solution of 2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one (5.00 g, 33.3 mmole) in HOAc (100 mL) was added Br2 (2.6 mL, 50.0 mmole). After stirring for 48 hours at RT, the reaction solution was concentrated to an orange solid, which was suspended in 1 N NaOH (50 mL) and extracted with EtOAc (2×100 mL). The combined organic layers were washed with brine and dried over Na2SO4. Flash chromatography on silica gel (9:1 CHCl3/MeOH containing 5% NH4OH) and drying under high vacuum gave the title compound (5.49 g, 72%) as a yellow solid: MS (ES) m/e 230 (M+H)+.

reactant | 2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one | 33.3 mmole, 5.00 g | O1C2=C(NC(C1)=O)N=CC=C2 | C7H6N2O2
reactant | Br2 | 50.0 mmole, 2.6 mL | BrBr | Br2
solvent | HOAc | 100 mL | CC(=O)O | C2H4O2
product | 5-bromo-2H-pyrido[3,2-b]-1,4-oxazin-3(4H)-one | 5.49 g, 72% | BrN1C=CC=C2OCC(NC21)=O | C7H7BrN2O2
